US20010023249A1
Step 2: Preparation of (4-phenylethynyl-phenyl)-carbamic acid tert-butyl ester (Ih)
(4-Iodo-phenyl)-carbamic acid tert-butyl ester (2.0 g, 6.27 mmol) was dissolved in THF (50 mL), treated with triethylamine (4.4 mL, 31.4 mmol), phenylacetylene (1.03 mL, 9.40 mmol), cuprous iodide (0.06 g, 0.31 mmol), and Pd(Ph3)2Cl2 (0.44 g, 0.63 mmol). The reaction was stirred overnight, then filtered and concentrated. The crude material was chromatographed on silica gel eluting with 7:1 hexane/EtOAc to give 1.48 g (80%) of the desired product.

reactant | (4-Iodo-phenyl)-carbamic acid tert-butyl ester | 6.27 mmol, 2.0 g | C(C)(C)(C)OC(NC1=CC=C(C=C1)I)=O | C11H14INO2
reactant | triethylamine | 31.4 mmol, 4.4 mL | C(C)N(CC)CC | C6H15N
reactant | phenylacetylene | 9.40 mmol, 1.03 mL | C1(=CC=CC=C1)C#C | C8H6
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | (4-phenylethynyl-phenyl)-carbamic acid tert-butyl ester | 1.48 g, 80% | C(C)(C)(C)OC(NC1=CC=C(C=C1)C#CC1=CC=CC=C1)=O | C19H19NO2
